US08110687B2
Preparation of N-(3-fluoro-4-methylphenyl)-7-({2-[(methylamino)carbonyl]-pyridin-4-yl}oxy)-3,4-dihydroisoquinoline-2(1H)-carboxamide
To a solution of N-methyl-4-(1,2,3,4-tetrahydroisoquinolin-7-yloxy)pyridine-2-carboxamide (34 mg, 0.12 mmol) in DMF (1 mL) was added to 2-fluoro-4isocyanato-1-methylbenzene (21.8 mg, 0.144 mmol). The reaction mixture was allowed to stir for 24 h. Water added and the resulting solid was separated and purified by reverse phase HPLC to N-(3-fluoro-4-methylphenyl)-7-({2-[(methylamino)carbonyl]-pyridin-4-yl}oxy)-3,4-dihydroisoquinoline-2(1H)-carboxamide (32 mg, 61%). LCMS: (AA) ES+) 435.5.

reactant | N-methyl-4-(1,2,3,4-tetrahydroisoquinolin-7-yloxy)pyridine-2-carboxamide | 0.12 mmol, 34 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC=C2CCNCC2=C1 | C16H17N3O2
reactant | 2-fluoro-4isocyanato-1-methylbenzene | 0.144 mmol, 21.8 mg | FC1=C(C=CC(=C1)N=C=O)C | C8H6FNO
reactant | Water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(3-fluoro-4-methylphenyl)-7-({2-[(methylamino)carbonyl]-pyridin-4-yl}oxy)-3,4-dihydroisoquinoline-2(1H)-carboxamide | FC=1C=C(C=CC1C)NC(=O)N1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C(=O)NC | C24H23FN4O3
